US07947683B2
4-{5-[(cyclopropylmethyl)thio]-4-methyl-4H-1,2,4-triazol-3-yl}-1-butanol
5-(4-hydroxybutyl)-4-methyl-2,4-dihydro-3H-1,2,4-triazole-3-thione (0.3 g), (bromomethyl)cyclopropane (0.17 ml) and triethyl ammine (0.27 ml) were dissolved in dimethylformamide (2 ml). Reaction was heated at 60° C. for 2 h. Dichloromethane and NaHCO3 saturated solution were added. Solvent was removed, under reduced pressure to give a crude that was purified by Silica column (eluting with DCM/MeOH from 0 to 10%) to give the title compound (0.2 g).

reactant | 5-(4-hydroxybutyl)-4-methyl-2,4-dihydro-3H-1,2,4-triazole-3-thione | 0.3 g | OCCCCC=1N(C(NN1)=S)C | C7H13N3OS
reactant | (bromomethyl)cyclopropane | 0.17 ml | BrCC1CC1 | C4H7Br
reactant | Dichloromethane | ClCCl | CH2Cl2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | 4-{5-[(cyclopropylmethyl)thio]-4-methyl-4H-1,2,4-triazol-3-yl}-1-butanol | 0.2 g | C1(CC1)CSC=1N(C(=NN1)CCCCO)C | C11H19N3OS
